US06255333B1
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)-4-iodopyrazole
To a stirred solution of 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)pyrazole (10 g) in acetonitrile (50 ml) at room temperature was added N-iodosuccinimide (6.4 g) in acetonitrile (25 ml). After 15 minutes the mixture was evaporated to dryness leaving and the residual buff solid taken up in dichloromethane (300 ml). The solution was washed with water (75 ml, ×3), then brine (50 ml), then dried (MgSO4) and evaporated. Trituration with hexane (100 ml, ×2) to provide the title compound as buff solid m.p. 172-174° C.

reactant | 5-amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)pyrazole | 10 g | NC1=CC(=NN1C1=C(C=C(C=C1Cl)SC(F)(F)F)Cl)C#N | C11H5Cl2F3N4S
reactant | N-iodosuccinimide | 6.4 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylsulphenylphenyl)-4-iodopyrazole | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)SC(F)(F)F)Cl)C#N)I | C11H4Cl2F3IN4S
